US08809361B2
5-(4-Methylsulfonyl-phenyl)-1″-[(1-trifluoromethyl-cyclopropyl)-methyl]-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine]
A solution of methanesulfonic acid (1-trifluoromethyl-cyclopropyl)methyl ester (45 mg) and sodium iodide (34 mg) in N,N-dimethylformamide (2 mL) is stirred at room temperature for 4 h. 5-(4-Methylsulfonyl-phenyl)-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] (HCl salt; 50 mg) and K2CO3 (35 mg) are added and the resulting mixture is heated to 60° C. After stirring the mixture at 60° C. for 4 h, water is added and the mixture is extracted with ethyl acetate. The combined extracts are dried (Na2SO4) and concentrated. The residue is triturated with methanol to give the title compound. LC (method 1): tR=0.82 min; Mass spectrum (ESI+): m/z=507 [M+H]+.

reactant | methanesulfonic acid (1-trifluoromethyl-cyclopropyl)methyl ester | 45 mg | FC(C1(CC1)COS(=O)(=O)C)(F)F | C6H9F3O3S
reactant | sodium iodide | 34 mg | [I-].[Na+]
reactant | 5-(4-Methylsulfonyl-phenyl)-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] | 50 mg | CS(=O)(=O)C1=CC=C(C=C1)C=1C=C2C(=CN1)OC1(CC3(CCNCC3)C1)C2 | C21H24N2O3S
reactant | K2CO3 | 35 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5-(4-Methylsulfonyl-phenyl)-1″-[(1-trifluoromethyl-cyclopropyl)-methyl]-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] | CS(=O)(=O)C1=CC=C(C=C1)C=1C=C2C(=CN1)OC1(CC3(CCN(CC3)CC3(CC3)C(F)(F)F)C1)C2 | C26H29F3N2O3S
